US04294960
Vilsmeier reagent prepared from dimethylformamide (0.43 g.) and phosphorus oxychloride (0.92 g.) was suspended in dry ethyl acetate (10 ml.). To the suspension was added 2-(2-formamido-4-thiazolyl)-2-methoxyimino acetic acid (syn isomer, 1.15 g.) under ice-cooling with stirring, and the mixture was stirred at the same temperature for 30 minutes to prepare the activated acid solution. On the other hand, p-nitrobenzyl 7-amino-3-cephem-4-carboxylate hydrochloride (1.79 g.) and trimethylsilylacetamide (5.0 g.) were dissolved in ethyl acetate (40 ml.). To the solution was added the activated acid solution at -20° C. all at once, and the mixture was stirred at the same temperature for 2.5 hours. Water (60 ml.) and ethyl acetate (200 ml.) were added to the resultant solution, and the ethyl acetate layer was separated, washed with 10% hydrochloric acid (60 ml.), a saturated aqueous solution of sodium bicarbonate (60 ml.) and an aqueous solution of sodium chloride (50 ml.) in turn, dried over magnesium sulfate, treated with activated charcoal, and then evaporated under reduced pressure. Diethyl ether was added to the residue, and the precipitates were collected by filtration to give p-nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyimino-acetamido}-3-cephem-4-carboxylate (syn isomer, 1.30 g.), m.p. 210° to 212° C. (dec.).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 0.92 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-4-thiazolyl)-2-methoxyimino acetic acid | 1.15 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C7H7N3O4S
reactant | p-nitrobenzyl 7-amino-3-cephem-4-carboxylate hydrochloride | 1.79 g | Cl.NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | trimethylsilylacetamide | 5.0 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 60 ml | O | H2O
solvent | dimethylformamide | 0.43 g | CN(C=O)C | C3H7NO
product | p-nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyimino-acetamido}-3-cephem-4-carboxylate | 1.30 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H18N6O8S2
